* A dual opamp ngspice model
* file name: OPA1612c-dual.lib
.subckt OPA1612c 1OUT 1IN- 1IN+ VEE 2IN+ 2IN- 2OUT VCC
.include opa1611.lib
XU1A 1IN+ 1IN- VCC VEE 1OUT opa1611
XU1B 2IN+ 2IN- VCC VEE 2OUT opa1611
.ends

